### ISSUE TITLE
congr not doing anything in the presence of dependent fields

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#1711]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`congr` not working as expected

### Steps to Reproduce

```
class One (α : Type u) where
  one : α

instance One.toOfNat1 {α} [One α] : OfNat α (nat_lit 1) where
  ofNat := ‹One α›.1

class MulOneClass (M : Type u) extends One M, Mul M where
  one_mul : ∀ a : M, 1 * a = a
  mul_one : ∀ a : M, a * 1 = a

theorem MulOneClass.ext {M : Type u} : ∀ ⦃m₁ m₂ : MulOneClass M⦄, m₁.mul = m₂.mul → m₁ = m₂ := by
  intro m₁ m₂
  cases m₁ with
  | @mk one₁ mul₁ one_mul₁ mul_one₁ =>
    cases one₁ with | mk one₁ => 
    cases mul₁ with | mk mul₁ => 
    cases m₂ with
    | @mk one₂ mul₂ one_mul₂ mul_one₂ =>
      cases one₂ with | mk one₂ => 
      cases mul₂ with | mk mul₂ => 
        simp
        intro h
        cases h
        congr -- Does nothing
        -- So this fails
        exact (one_mul₂ one₁).symm.trans (mul_one₁ one₂)
```

**Expected behavior:** [What you expect to happen]

`congr` to change the goal to `one₁ = one₂`, as it would have in Lean3.

**Actual behavior:**

`congr` succeeds, but does not change the goal.

### Versions

Lean (version 4.0.0-nightly-2022-10-09, commit 5ef9a2ac7d1f, Release)

**Comment by leodemoura** [comment]
@semorrison I fixed a bug in the `congr` tactic, but there are others.

**Comment by leodemoura** [comment]
@semorrison @digama0 @gebner 

I think I found the other issue. The type of `MulOneClass.mk` in Lean 4 is
```lean
{M : Type u_1} → [toOne : One M] → [toMul : Mul M] → (∀ (a : M), 1 * a = a) → (∀ (a : M), a * 1 = a) → MulOneClass M
```
Note that the fields of the parent classes `One` and `Mul` are not flattened like in Lean 3. This is the intended behavior. However, it is problematic for the `congr` tactic since (in both Lean 3 and Lean 4)  instance implicit arguments are "fixed." That is, the automatically generated congruence theorem treats this kind of argument as "fixed". Should we relax this restriction? Not sure how it will affect Mathlib. 

Another question: I am assuming `congr` should fail if the lemma cannot be applied. I will fix this if you agree, ok?

**Comment by digama0** [comment]
Regarding failure, one thing that I have noticed more generally is that tactics no longer fail if they don't change the goal `(`simp` and `injections` come to mind). Especially if we have a `fail_if_unchanged` combinator, I think this is a reasonable choice, but we should be explicit and consistent about it.

**Comment by gebner** [comment]
One option that I just pitched to Leo was to make the `toOne` and `toMul` arguments in the `MulOneClass.mk` constructor explicit:
```lean
{M : Type u_1} → (toOne : One M) → (toMul : Mul M) → (∀ (a : M), 1 * a = a) → (∀ (a : M), a * 1 = a) → MulOneClass M
```

This change by itself would introduce two regressions:
 1. `attribute [instance] MyClass.mk` would no longer work.  AFAICT this is only used by `class abbrev` and can be fixed trivially by writing a custom instance.
 2. `{ : MulOneClass M }` would no longer search for TC instances for `One M` and `Mul M`.  Not that this feature only works in half of the cases at the moment: if a parent is a subobject, then `{}` will use TC synthesis to fill it, but not if it is flattened.  If we add support in the structure instance elaborator to fill in fields using TC synthesis, then it would work in both cases.

**Comment by leodemoura** [comment]
> Regarding failure, one thing that I have noticed more generally is that tactics no longer fail if they don't change the goal (`simp` and `injections` come to mind). Especially if we have a `fail_if_unchanged` combinator, I think this is a reasonable choice, but we should be explicit and consistent about it.

@digama0 This is a good point. Could you please create an issue with all the tactics that we need the adjust the behavior? 

BTW, are you happy with Gabriel's proposal above?

**Comment by leodemoura** [comment]
> Which way are we going here? Should tactics fail if they don't change the goal, or do nothing?

Good question. Both possibilities seem to have their own merits. Gabriel and I were guessing that would be better to keep the Lean 3 behavior since the community is already used to it, and it will probably simplify the port. What do you think?
